* tb_quick_verify.spice — Quick comprehensive check
* 10mA resistive load, 10µs BVDD ramp, startup + load step

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/parameters/invariant.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

XM_pass gate bvdd pvdd pass_device
Rss avbg vref_ss 100k
Css vref_ss 0 10n
XEA vref_ss vfb ea_out pvdd 0 ibias bvdd bvdd error_amp
XFB pvdd vfb 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XILIM gate bvdd pvdd 0 ilim_flag current_limiter
XUV pvdd avbg uv_flag svdd 0 uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd 0 uvov_en ov_comparator
XZC pvdd 0 zener_clamp
XMC bvdd pvdd svdd 0 en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control
XSU bvdd pvdd gate 0 avbg startup_done bvdd ea_out startup
XLS_EN en en_bvdd bvdd svdd 0 level_shifter_up
Cload pvdd 0 200e-12
Cout_ext pvdd 0 1u

Vbvdd bvdd 0 PWL(0 0 10u 7 1 7)
Vavbg avbg 0 1.226
Ibias ibias 0 DC 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

* Base load + step
Rbase pvdd 0 5000
Istep pvdd 0 PWL(0 0 200m 0 200.001m 9m 210m 9m 210.001m 0 220m 0)

.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option method=gear maxord=2
.option itl1=500 itl2=500 itl4=500
.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 250m uic

* DC regulation
.meas tran vpvdd_10ma avg V(pvdd) from=150m to=200m

* Startup
.meas tran pvdd_peak MAX V(pvdd) from=0 to=100m
.meas tran t_start WHEN V(pvdd)=4.5 RISE=1

* Load transient
.meas tran v_before avg V(pvdd) from=199m to=200m
.meas tran v_min MIN V(pvdd) from=200m to=210m
.meas tran v_max MAX V(pvdd) from=210m to=220m
.meas tran v_after avg V(pvdd) from=218m to=220m

* Iq (approximate from BVDD current)
.meas tran ibvdd avg I(Vbvdd) from=150m to=200m

.control
run
quit
.endc
.end
